US08541589B2
A mixture of methyl 2-(4-(4-cyanonaphthalen-1-yl)pyrimidin-5-ylthio)acetate (22 mg, 0.065 mmol), aqueous sodium hydroxide solution (1M, 0.5 mL) and methanol (1 mL) was stirred at room temperature for 2 hours. Methanol was removed and aqueous sodium hydroxide solution (1M, 1 mL) and ethyl acetate (3 mL) were added. The aqueous layer was removed, acidified and extracted with ethyl acetate. The second organic layer was concentrated to dryness to yield 2-(4-(4-cyanonaphthalen-1-yl)pyrimidin-5-ylthio)acetic acid (19 mg, 91%).

reactant | methyl 2-(4-(4-cyanonaphthalen-1-yl)pyrimidin-5-ylthio)acetate | 0.065 mmol, 22 mg | C(#N)C1=CC=C(C2=CC=CC=C12)C1=NC=NC=C1SCC(=O)OC | C18H13N3O2S
reactant | sodium hydroxide | 1M, 0.5 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 2-(4-(4-cyanonaphthalen-1-yl)pyrimidin-5-ylthio)acetic acid | 19 mg, 91% | C(#N)C1=CC=C(C2=CC=CC=C12)C1=NC=NC=C1SCC(=O)O | C17H11N3O2S
